data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3642,4161,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([CH3:10])[O+:11]=[C:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([CH3:10])[O:11][C:12]1([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,12.971517971672052,-50.05303310168309
3601,4110,[CH3:9][O:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][n:17][n+:18]1[CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:14](=[O:15])[O:16][N:17]1[N:18]2[CH3:19],water,298.15,38.82783317434376,15.87078350750476
1646,1818,[CH3:17][C:18](=[O:19])[C:20]([C:21]([CH3:22])=[O:23])=[N+:24]([CH3:25])[O-:26].[CH3:1][O:2][C:3](=[C:4]([C:5]([F:6])([F:7])[F:8])[C:9]([F:10])([F:11])[F:12])[C:13]([F:14])([F:15])[F:16]>>[CH3:1][O:2][C:3]1([C:13]([F:14])([F:15])[F:16])[C:4]([C:5]([F:6])([F:7])[F:8])([C:9]([F:10])([F:11])[F:12])[O:26][N:24]([CH3:25])[C:20]1([C:18]([CH3:17])=[O:19])[C:21]([CH3:22])=[O:23],water,298.15,41.92670953391786,20.830958441568843
1165,1266,[CH3:18][CH:19]=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]#[N:25].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[CH:19]([CH3:18])[N:20]([CH3:21])[C:22]2([CH3:23])[C:24]#[N:25],water,298.15,21.370342744549244,-15.218300754986071
809,876,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][NH+:18]=[CH:19][C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]([O:6][CH3:7])=[C:8]([O:9][CH3:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]([O:9][CH3:10])([O:11][CH3:12])[CH:19]([C:20]([CH3:21])=[O:22])[NH:18][CH:17]1[C:15]([NH:14][CH3:13])=[O:16],water,298.15,25.445904327224024,-11.48163502277106
1014,1107,[CH3:13][C:14](=[O:15])[N:16]=[NH+:17][N-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[N:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[NH:17][N:16]2[C:14]([CH3:13])=[O:15],water,298.15,38.30413996677085,-12.471290817278776
3656,4176,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[NH:16][CH:17]1[C:18]#[N:19],water,298.15,17.609378031249122,-19.888163912516266
3369,3828,[CH3:10][N:11]=[NH+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:11]([CH3:10])[NH:12][N:13]1[C:14](=[O:15])[NH:16][CH3:17],water,298.15,30.919143541076487,2.0775998327144465
1844,2046,[CH3:18][NH:19][C:20](=[O:21])[N-:22][N+:23]#[C:24][C:25](=[O:26])[O:27][CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[c:7]2[c:8]([c:24]([C:25](=[O:26])[O:27][CH3:28])[n:23][n:22]2[C:20]([NH:19][CH3:18])=[O:21])[C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1,water,298.15,11.259878677061469,-87.64338249123881
4321,4942,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]=[C:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,16.435523859408825,-34.412401379471746
504,551,[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[NH-:10][NH+:11]=[CH:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[NH:10][NH:11][CH:12]3[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,15.262642089608072,-35.34425818599401
4763,5439,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2-:15][O+:16]=[C:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH2:15][O:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,6.156604125100629,-33.720601045879626
